US04791055
B. N6 -[2-(2,4-dinitrophenyl)aminoethyl]adenosine-5'-monophosphate
Two hundred fifty mg N6 -(2-aminoethyl)adenosine-5'-monophosphate (0.65 mmol) from Part A of this Example was dissolved in 20 ml water at pH 8. Then 168 mg sodium bicarbonate was added, followed by 0.2 ml 1-fluoro-2,4-dinitrobenzene (1.58 mmol dissolved in 2 ml ethanol). The reaction mixture was stirred in the dark at room temperature for 4 hr and then an additional 0.1 ml 1-fluoro-2,4-dinitrobenzene in 1 ml ethanol was added. After the reaction mixture had stirred overnight, it was adjusted to pH 2.0 with hydrochloric acid and was poured into 200 ml ethanol. The precipitate which formed was dissolved in 200 ml water and this solution was adjusted to pH 8.0 with sodium hydroxide and chromatographed on a 2.5×30 cm column of DEAE-cellulose in the bicarbonate form (available from Reeve Angel, Clifton, N.J.). The chromatogram was developed with a linear gradient generated with 1.5 liters water and 1.5 liters 0.7 M ammonium bicarbonate. A major peak of yellow material which absorbed uv light was eluted between 1200 and 1500 ml of the gradient. Ammonium bicarbonate was removed by repeated evaporation to dryness to give 40 percent yield of the desired product. This product migrated as one yellow spot on thin-layer chromatograms developed with the same two solvents mentioned in Part A of this Example and on epichlorohydrintriethanolamine anion-exchange paper developed with 0.25M sodium acetate-acetic acid buffer, pH 5.0. In 0.02N hydrochloric acid the product had optical absorption maxima of 264 nm and 363 nm with millimolar extinction coefficients of 21.8 and 14.2, respectively.

reactant | N6 -(2-aminoethyl)adenosine-5'-monophosphate | 0.65 mmol, Two hundred fifty mg | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NCCN)=NC=NC12)O)O | C12H19N6O7P
reactant | sodium bicarbonate | 168 mg | C([O-])(O)=O.[Na+]
reactant | 1-fluoro-2,4-dinitrobenzene | 1.58 mmol, 0.2 ml | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | 1-fluoro-2,4-dinitrobenzene | 0.1 ml | FC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3FN2O4
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 200 ml | O | H2O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N6 -[2-(2,4-dinitrophenyl)aminoethyl]adenosine-5'-monophosphate | 40 percent yield | P(=O)(O)(O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(NCCNC3=C(C=C(C=C3)[N+](=O)[O-])[N+](=O)[O-])=NC=NC12)O)O | C18H21N8O11P
